US07842685B2
Reaction of 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzaldehyde (100.3 mg, 0.268 mmol) and methyl 2-amino-2-methylpropanoate hydrochloride (41 mg, 0.268 mmol) according to Reference R and the general procedure for reductive amination to give methyl 2-(3-fluoro-4-(5-(1-phenylcyclopropyl)-thiazolo[5,4-b]pyridin-2-yl)benzylamino)-2-methylpropanoate as a yellow-orange oil. MS (ESI) m/z: Calculated: 475.2; Observed: 476.1 (M++1).

reactant | 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzaldehyde | 0.268 mmol, 100.3 mg | FC=1C=C(C=O)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C22H15FN2OS
reactant | methyl 2-amino-2-methylpropanoate hydrochloride | 0.268 mmol, 41 mg | Cl.NC(C(=O)OC)(C)C
product | methyl 2-(3-fluoro-4-(5-(1-phenylcyclopropyl)-thiazolo[5,4-b]pyridin-2-yl)benzylamino)-2-methylpropanoate | FC=1C=C(CNC(C(=O)OC)(C)C)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C27H26FN3O2S
